US06103910
b) (R)-1-[[2-[2-[(R)-2-Carboxy-pyrrolidin-1yl]-2-oxo-ethoxy]-3-methyl -phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid
A solution of 325 mg (0.60 mmol) (R)-1-[[2-[2-[(R)-2-tert-butoxycarbonyl -pyrrolidin-1-yl]-2-oxo-ethoxy]-3-methyl-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester in 4 ml trifluoroacetic acid was stirred for 3 h at room temperature. The solvent was removed in vacuo and the residue suspended in 10 ml ether. The resulting suspension was stirred overnight. Filtration and drying gave 235 mg (91%) of the title compound as a white powder. MS m/e (%): 457 (M+Na+, 59), 435 (M+H+, 100).

reactant | (R)-1-[[2-[2-[(R)-2-tert-butoxycarbonyl -pyrrolidin-1-yl]-2-oxo-ethoxy]-3-methyl-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 0.60 mmol, 325 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(COC1=C(C(=CC=C1)C)OCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C29H42N2O8
solvent | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-1-[[2-[2-[(R)-2-Carboxy-pyrrolidin-1yl]-2-oxo-ethoxy]-3-methyl -phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid | 235 mg, 91% | C(=O)(O)[C@@H]1N(CCC1)C(COC1=C(OCC(=O)N2[C@H](CCC2)C(=O)O)C=CC=C1C)=O | C21H26N2O8
